US09034850B2
Step A. [(R)-2-(3-(2-fluoro-6-trifluoromethyl-benzyl)-2,6-dioxo-5-{4-[3-(1H-tetrazol-5-yl)-benzyl]-piperazin-1-yl}-3,6-dihydro-2H-pyrimidin-1-yl)-1-phenyl-ethyl]-carbamic acid tert-butyl ester
{(R)-2-[5-[4-(3-cyano-benzyl)-piperazin-1-yl]-3-(2-fluoro-6-trifluoromethyl-benzyl)-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester (35 mg, 0.049 mmol), and azidotributyl tin (IV) (16 μl, 0.059 mmol) were dissolved at 120° C. for 10 hrs in toluene (1 mL) with stirring. The solution was cooled to room temperature, followed by the addition of azidotributyl tin (IV) (20 μl, 0.074 mmol) thereto and stirring at 120° C. for an additional 2 hrs. The solution was cooled to room temperature, diluted in dichloromethane, and washed with an aqueous saturated ammonium chloride solution and an aqueous saturated sodium chloride solution in the order. The organic layer thus formed was separated and concentrated, and the residue was purified using silica gel chromatography (eluent: dichloromethane/methanol, 6/1) and dried in a vacuum to afford 20 mg of the compound as a colorless oil (yield 54%).

reactant | {(R)-2-[5-[4-(3-cyano-benzyl)-piperazin-1-yl]-3-(2-fluoro-6-trifluoromethyl-benzyl)-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester | 0.049 mmol, 35 mg | C(C)(C)(C)OC(N[C@@H](CN1C(N(C=C(C1=O)N1CCN(CC1)CC1=CC(=CC=C1)C#N)CC1=C(C=CC=C1C(F)(F)F)F)=O)C1=CC=CC=C1)=O | C37H38F4N6O4
reactant | azidotributyl tin (IV) | 0.059 mmol, 16 μl | N(=[N+]=[N-])[Sn](CCCC)(CCCC)CCCC
reactant | azidotributyl tin (IV) | 0.074 mmol, 20 μl | N(=[N+]=[N-])[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | [(R)-2-(3-(2-fluoro-6-trifluoromethyl-benzyl)-2,6-dioxo-5-{4-[3-(1H-tetrazol-5-yl)-benzyl]-piperazin-1-yl}-3,6-dihydro-2H-pyrimidin-1-yl)-1-phenyl-ethyl]-carbamic acid tert-butyl ester | 20 mg, yield 54% | C(C)(C)(C)OC(N[C@@H](CN1C(N(C=C(C1=O)N1CCN(CC1)CC1=CC(=CC=C1)C1=NN=NN1)CC1=C(C=CC=C1C(F)(F)F)F)=O)C1=CC=CC=C1)=O | C37H39F4N9O4
